US05663200
48b) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3,4,5-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one
In analogy with Example 44c), 1 g of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one [Example 2b)] in 4 ml of abs. THF is deprotonated (-75° C.) with 6.42 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF, and with the addition of 0.66 ml of DMPU and alkylated with 1.008 g 3,4,5-trimethoxybenzyl iodide. Chromatography on silica gel (eluent, hexane/acetone 3:1) affords the title compound. TLC Rf (hexane/acetone, 3:1)=0.22. FAB-MS M+ =485.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one | 1 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | DMPU | 0.66 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | 3,4,5-trimethoxybenzyl iodide | 1.008 g | COC=1C=C(CI)C=C(C1OC)OC | C10H13IO3
solvent | THF | C1CCOC1 | C4H8O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3,4,5-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C27H35NO7
